US06316484B1
4-(N,N-Dimethylamino)-1-(N-methylpentafluorophenylsulfonamido)benzene.
4-(N,N-Dimethylamino)-1-(pentafluorophenylsulfonamido)benzene (100 mg, 0.273 mmol) was dissolved in dry THF (2.5 mL) and to the system was added under N2 at room temperature a 1M solution of lithium bis(trimethylsilyl)amide (0.274 mL). The reaction mixture was stirred for 10 min followed by addition of MeI (65 mg, 0.028 mL). The reaction mixture was stirred overnight, the solvent was evaporated under reduced pressure and the crude product purified by HPLC using silica as the stationary phase and eluting with 20%EtOAc/Hex (v/v) to afford the product as a white solid in 60% yield (62 mg). EI m/z: 380(35, M+), 149(100). 1H NMR (CD3OD) 7.05(d, J=8 Hz, 2H), 6.68(d, J=8 Hz, 2H), 3.33(s, 3H) 2.93(s, 6H). Anal. calcd. for C15H13F5SO2N2: C, 47.37, H, 3.45, N, 7.37. Found: C, 47.37, H, 3.49, N, 7.32.

reactant | 4-(N,N-Dimethylamino)-1-(pentafluorophenylsulfonamido)benzene | 0.273 mmol, 100 mg | CN(C)C1=CC=C(C=C1)NS(=O)(=O)C1=C(C(=C(C(=C1F)F)F)F)F | C14H11F5N2O2S
reactant | lithium bis(trimethylsilyl)amide | 0.274 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | MeI | 0.028 mL, 65 mg | CI | CH3I
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 4-(N,N-Dimethylamino)-1-(N-methylpentafluorophenylsulfonamido)benzene | 60% yield | CN(C)C1=CC=C(C=C1)N(S(=O)(=O)C1=C(C(=C(C(=C1F)F)F)F)F)C | C15H13F5N2O2S
